US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-(trifluoromethyl)phenyl)methanol
To 300 mg magnesium turnings and 2 crystals of iodine were added 1 ml tetrahydrofurane. Afterwards a few drops of a solution of 2 ml 4-bromobenzotrifluoride in 15 ml tetrahydrofurane were added and the mixture was gently heated to start the reaction. Then the rest of the 4-bromobenzotrifluoride solution is added dropwise. After complete formation the Grignard reagent is added dropwise via syringe to a solution of 880 mg (S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde in 10 ml tetrahydrofurane at −50° C. The reaction is stirred for 1 hour at −50° C. and then quenched by dropwise addition of 10 ml methanol. The mixture is partitioned between dichloromethane and saturated ammonium chloride. The organic phase is washed with brine and dried with sodium sulphate. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 100:0 to 95:5).

reactant | magnesium | 300 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromobenzotrifluoride | 2 ml | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | (S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | 880 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C=O)I | C23H36INO2Si
solvent | tetrahydrofurane | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-(trifluoromethyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)[C@@H](O)C1=CC=C(C=C1)C(F)(F)F)I | C30H41F3INO2Si
